US07291631B2
A mixture of 3-fluoro-5,6-dimethyl-pyridine (0.230 g, 1.84 mmol) (Ife, R. J. Eur. Pat. Appl. (1987), EP 246774), 3-chloroperoxybenzoic acid (77%, 1.24 g, 5.5 mmol) in CH2Cl2 (25 mL) was stirred for 16 h. The solution was concentrated, and the residue was purified by flash chromatography on a silica gel column (8:1 EtOAc/MeOH), affording 3-fluoro-5,6-dimethyl-pyridine-1-oxide as a white solid (0.225 g 87%).

reactant | 3-fluoro-5,6-dimethyl-pyridine | 1.84 mmol, 0.230 g | FC=1C=NC(=C(C1)C)C | C7H8FN
reactant | 3-chloroperoxybenzoic acid | 5.5 mmol, 1.24 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-5,6-dimethyl-pyridine-1-oxide | FC=1C=[N+](C(=C(C1)C)C)[O-] | C7H8FNO
